US06747023B1
4-[(6-Chloronaphthalen-2-yl)sulfonyl]-2-[[N-(2-methoxyethyl)]carbamoyl]-1-[(6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]piperazine hydrochloride
Starting materials: lithium 6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine-2-carboxylate, 4-[(6-chloronaphthalen-2-yl)sulfonyl]-2-[[N-(2-methoxyethyl)]carbamoyl]piperazine

reactant | lithium 6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine-2-carboxylate | CC1CC2=C(CN1)SC(=N2)C(=O)[O-].[Li+]
reactant | 4-[(6-chloronaphthalen-2-yl)sulfonyl]-2-[[N-(2-methoxyethyl)]carbamoyl]piperazine | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(NCC1)C(NCCOC)=O | C18H22ClN3O4S
product | 4-[(6-Chloronaphthalen-2-yl)sulfonyl]-2-[[N-(2-methoxyethyl)]carbamoyl]-1-[(6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]piperazine hydrochloride | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(CC1)C(=O)C=1SC=2CNC(CC2N1)C)C(NCCOC)=O | InChI=1S/C26H30ClN5O5S2.ClH/c1-16-11-21-23(14-29-16)38-25(30-21)26(34)32-9-8-31(15-22(32)24(33)28-7-10-37-2)39(35,36)20-6-4-17-12-19(27)5-3-18(17)13-20;/h3-6,12-13,16,22,29H,7-11,14-15H2,1-2H3,(H,28,33);1H
